US07820658B2
2-Amino-4-benzyloxy-thieno[2,3-d]pyrimidine-6-carboxylic acid
To a nitrogen filled flask containing sodium hydride (0.5 mmol, 60% in mineral oil) in anhydrous THF (5 ml) was added benzyl alcohol (0.5 mmol). The suspension was stirred vigorously for 10 minutes until no more gas was evolved before being transferred to a microwave reaction tube containing 2-amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.129 g, 0.5 mmol). The sealed tube was heated to 90° C. for 5 mins using 300 W in a CEM microwave apparatus (CARE!). The reaction mixture was partitioned between DCM and water, the water layer neutralised and evaporated to dryness in vacuo to leave the pure product.

reactant | sodium hydride | 0.5 mmol | [H-].[Na+]
reactant | benzyl alcohol | 0.5 mmol | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.5 mmol, 0.129 g | C(C)OC(=O)C1=CC2=C(N=C(N=C2Cl)N)S1 | C9H8ClN3O2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Amino-4-benzyloxy-thieno[2,3-d]pyrimidine-6-carboxylic acid | NC=1N=C(C2=C(N1)SC(=C2)C(=O)O)OCC2=CC=CC=C2 | C14H11N3O3S
